Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Augmentin / Penicillins
 
Attending: ___.
 
Chief Complaint:
neck and back pain
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ female s/p MVC brought to ___ ED by ambulance, 
complaining of neck and back pain. She was a restrained backseat 
passenger in a collision car vs pole at 35 mph. Positive 
headstrike, no LOC. No radiation of pain down upper or lower
extremities. No numbness, paresthesias, or weakness. No bowel or 
bladder symptoms. CT C-spine shows a nondisplaced R C2 lateral 
mass fracture, does not involve vertebral foramen. CT L-spine 
shows an anterior superior endplate fracture of L1 without 
associated fractures, no flexion or extension deformity
at adjacent levels. 

 
Past Medical History:
Hyperlipidemia
 
Social History:
___
Family History:
Lives in ___
 
___ Exam:
Admission PE:
Vitals: AFVSS 
Gen: NAD 

Hard c-collar in place 
No stepoffs along T/L spine 
Mild tenderness along lower thoracic/upper lumbar spine 

Vascular
       RadialDP
R2+2+
L2+2+

Sensory UE       R      L
C5 (lat arm)     nl     nl 
C6 (lat forearm) nl     nl
C7 ___ finger)  nl     nl
C8 ___ finger)  nl     nl
T1 (med forearm) nl     nl
T2-L2 (trunk)    nl     nl

Sensory ___       R      L
L2 ___ thigh)  nl     nl
L3 (distal thigh)nl     nl
L4 (med leg)     nl     nl
L5 (great toe)   nl     nl
S1 (small toe/post leg)   nl     nl
S2 (post thigh)  nl     nl

Motor UE          R     L
Deltoid (C5)Ax    5     5
Biceps (C6)MC     5     5
WE(C6)R           5     5
Triceps (C7)R     5     5
WF(C7)M          5     ___
FF(C8)AIN         5     ___
Fing Abd(T1)U     5     5

Motor ___          R     L
Add(L2)          5     5
Quad(L3)          5     5
Ant Tib(L4/DP)    5     5
___     5     5
Peroneal(S1/SP)  5     5
___        5     5

Reflexes          R     L
Biceps(C4-5)      1+    1+
BR(C5-6)          0    0   
Triceps (C6-7)    0    0
Patellar (L3-4)  0    0
Achilles(L5-S1)   0    0

___: neg
Babinski: neg
Clonus: neg

 
Pertinent Results:
___ 12:16AM BLOOD WBC-16.0* RBC-4.59 Hgb-13.7 Hct-42.1 
MCV-92 MCH-29.8 MCHC-32.5 RDW-12.5 RDWSD-41.4 Plt ___
___ 12:16AM BLOOD Neuts-76.9* Lymphs-15.3* Monos-5.2 
Eos-1.2 Baso-0.6 Im ___ AbsNeut-12.29* AbsLymp-2.45 
AbsMono-0.83* AbsEos-0.19 AbsBaso-0.10*
___ 12:16AM BLOOD Plt ___
___ 12:16AM BLOOD ___ PTT-29.2 ___
___ 12:16AM BLOOD Glucose-132* UreaN-16 Creat-0.8 Na-139 
K-4.0 Cl-101 HCO3-28 AnGap-14
___ 12:16AM BLOOD Glucose-132* UreaN-16 Creat-0.8 Na-139 
K-4.0 Cl-101 HCO3-28 AnGap-14
___ 12:16AM BLOOD Calcium-9.8 Phos-3.2 Mg-2.0
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service for 
management of her fractures and pain control. 
___ were used for DVT prophylaxis. Pain was 
controlled with oral Tylenol. Diet was advanced as tolerated.The 
patient was voiding independently.The patient was placed in a 
___ j foer her cervical fracture and a lumbar corsette for her 
lumbar fracture for comfort. Physical therapy was consulted for 
mobilization OOB to ambulate and ADL's.Hospital course was 
otherwise unremarkable.On the day of discharge the patient was 
afebrile with stable vital signs, comfortable on oral pain 
control and tolerating a regular diet.
 
Medications on Admission:
Simvastatin
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0
2. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN Pain 
please do not operate heavy machinery, drink alcohol or drive 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every four 
(4) hours Disp #*20 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID constipation 
please take if taking narcotic pain medication 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervical: R nondisplaced C2 lateral mass fracture, 
Lumbar: L1 anterior superior endplate fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You have sustained a cervical and lumbar fracture-
•                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit or stand more than~45 minutes without getting up and 
walking around.

•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.Limit any kind 
of lifting.

•                Diet: Eat a normal healthy diet.You may have 
some constipation after surgery.You have been given medication 
to help with this issue.

•                Brace:You may have been given a brace.If you 
have been given a brace,this brace is to be worn when you are 
walking.You may take it off when sitting in a chair or while 
lying in bed.

-                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions,so please plan ahead.You can either have 
them mailed to your home or pick them up at the clinic located 
on ___ 2.We are not allowed to call in or fax narcotic 
prescriptions(oxycontin,oxycodone,percocet) to your pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.

•                Follow up:

                Please Call the office and make an appointment 
for 2 weeks after discharge. 
                At the 2-week visit we will check your progress 
and take baseline X-rays and answer any questions.We may at that 
time start physical therapy

                We will then see you at 6 weeks-2 months from 
discharge and possibly release you to full activity.

Please call the office if you have any increased pain or 
weakness. 
 
Followup Instructions:
___